US08138187B2
Methyl 1-(2-(1H-indol-3-yl)ethyl)-1H-1,2,3-triazole-4-carboxylate (Ind-63)
The resin (4-(bromomethyl)-phenoxyethyl-polystyrene HL) (5.00 g, 5.5 mmol) was suspended in N,N-dimethylacetamide (DMA) (30 ml), sodium azide (178 g, 27.5 mmol, 5 eq.) was added and the mixture was stirred at RT for 48 h. The resin was filtered off, washed with methanol and dried. The resin was suspended in DMA (100 ml) again, 3-(2-bromoethyl)indole (0.60 g, 2.67 mmol) was added and the mixture was stirred at RT for 5 d. Propiolic acid methyl ester (0.24 ml, 2.67 mmol) was then added, the mixture was stirred at 80° C. for 20 h and the solvent was removed i. vac. The residue was separated by flash chromatography with CHCl3/MeOH (9:1). In addition to the desired product, 3-(2-bromoethyl)indole (103 mg, 17%) was recovered. Yield: 342 mg (Ind-63, 47%)

reactant | sodium azide | 27.5 mmol, 178 g, 5 eq. | [N-]=[N+]=[N-].[Na+]
reactant | 3-(2-bromoethyl)indole | 2.67 mmol, 0.60 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
reactant | Propiolic acid methyl ester | 2.67 mmol, 0.24 ml | COC(C#C)=O | C4H4O2
solvent | N,N-dimethylacetamide | 30 ml | CN(C(C)=O)C | C4H9NO
product | Methyl 1-(2-(1H-indol-3-yl)ethyl)-1H-1,2,3-triazole-4-carboxylate | N1C=C(C2=CC=CC=C12)CCN1N=NC(=C1)C(=O)OC | C14H14N4O2
